US08114877B2
a) 4-Carbamoyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic Acid Ethyl Ester
Ethyl-6-chloronicotinate (1.86 g, 10 mmol) and piperidine-4-carboxamide (1.54 g, 12 mmol) are dissolved in DMSO (7 ml). N,N-Diisopropylethylamine (2.1 ml, 12 mmol) is added and the reaction mixture is heated at 95° C. for 3 hours. Methanol (8 ml) is added as the reaction mixture cools to give a precipitate. The solid is collected, washed with water followed by diethyl ether, and dried in vacuo at 45° C. to yield the title compound as a white solid. MS (ES+) m/e 278 (MH+)

reactant | Ethyl-6-chloronicotinate | 10 mmol, 1.86 g | C(C)OC(C1=CN=C(C=C1)Cl)=O | C8H8ClNO2
reactant | piperidine-4-carboxamide | 12 mmol, 1.54 g | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | N,N-Diisopropylethylamine | 12 mmol, 2.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Methanol | 8 ml | CO | CH4O
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | 4-Carbamoyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C=CC(=NC1)N1CCC(CC1)C(N)=O | C14H19N3O3
